US08669234B2
2-[1-(4-Bromo-phenyl)-1-carbamoyl-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
To a stirred solution of 2-[1-(4-bromo-phenyl)-1-ethoxycarbonyl-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (280 mg, 0.6 mmol) in ethanol (8 mL) was bubbled through NH3 gas for 5 minutes at −78° C. The solution was stirred at ambient for 3 days in a sealed tube. Most of the volatile component was removed in vacuo, and the resulting residue was dissolved in ethyl acetate (150 mL), washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product as a colorless oil (169 mg, 64%). m/z 439.8, 441.8 (M+H)+.

reactant | 2-[1-(4-bromo-phenyl)-1-ethoxycarbonyl-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.6 mmol, 280 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC(C)(C(=O)OCC)C1=CC=C(C=C1)Br)=O | C21H29BrN2O5
reactant | NH3 | N | H3N
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 2-[1-(4-Bromo-phenyl)-1-carbamoyl-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 169 mg, 64% | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC(C)(C(N)=O)C1=CC=C(C=C1)Br)=O | C19H26BrN3O4
